US07829556B2
To a solution of [6-(2-nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-methanol (165 g, 0.6 mol) in dichloromethane (1.65 L) was added SOCl2 (400 mL, 5.5 mol) at room temperature. DMF (0.3 mL) was added and the reaction mixture was stirred at 30° C. (2 h). The reaction mixture was cooled to 0° C., and the precipitate was collected by filtration and dried in vacuo to give 3-chloromethyl-6-(2-nitro-phenyl)-imidazo[2,1-b]thiazole as a white solid (174 g, 99% yield).

reactant | [6-(2-nitro-phenyl)-imidazo[2,1-b]thiazol-3-yl]-methanol | 0.6 mol, 165 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2SC=C(N2C1)CO | C12H9N3O3S
reactant | SOCl2 | 5.5 mol, 400 mL | O=S(Cl)Cl | Cl2OS
reactant | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 1.65 L | ClCCl | CH2Cl2
product | 3-chloromethyl-6-(2-nitro-phenyl)-imidazo[2,1-b]thiazole | 174 g, 99% yield | ClCC=1N2C(SC1)=NC(=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C12H8ClN3O2S
